US07205292B2
N-[(3R)-1-(4-Hydroxybenzyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
The title compound was prepared with (3R)-3-amino-1-(4-hydroxybenzyl)azepan-2-one and 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride using a similar procedure to Example 16. MS 492.2591 (M+1).

reactant | (3R)-3-amino-1-(4-hydroxybenzyl)azepan-2-one | N[C@H]1C(N(CCCC1)CC1=CC=C(C=C1)O)=O | C13H18N2O2
reactant | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)Cl | C14H16ClN3O2
product | N-[(3R)-1-(4-Hydroxybenzyl)-2-oxoazepan-3-yl]-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | OC1=CC=C(CN2C([C@@H](CCCC2)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1 | C27H33N5O4
